US05712300
Preparation of tert-Butyl α-[2-[(3,4-Difluorobenzoyl)amino]ethyl]-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate
To a solution of tert-butyl α-(2-aminoethyl)-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate (549 mg, 1.36 mmol), CH2Cl2 (8.4 mL), and diisopropylethylamine (0.29 ml, 1.6 mmol) at 0° C. is added 3,4-difluorobenzoyl chloride (0.21 mL, 1.6 mmol). The solution is stirred at 0° C. for 1 hour and 16 hours at room temperature. Basic workup (CH2Cl2, NaHCO3, MgSO4) and purification by flash chromatography (1:1 hexane:EtOAc) gives 477 mg (64%) of the title compound as a white solid (mp 147°-148° C.):

reactant | tert-butyl α-(2-aminoethyl)-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate | 1.36 mmol, 549 mg | NCCC(C(=O)OC(C)(C)C)C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C | C24H38N2O3
reactant | diisopropylethylamine | 1.6 mmol, 0.29 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3,4-difluorobenzoyl chloride | 1.6 mmol, 0.21 mL | FC=1C=C(C(=O)Cl)C=CC1F | C7H3ClF2O
solvent | CH2Cl2 | 8.4 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl α-[2-[(3,4-Difluorobenzoyl)amino]ethyl]-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate | 477 mg, 64% | FC=1C=C(C(=O)NCCC(C(=O)OC(C)(C)C)C2(C(N(CC2)CCC2=CC=CC=C2)=O)CC(C)C)C=CC1F | C31H40F2N2O4
